US06916819B2
A mixture of the crude 1-(3-Fluorophenyl)-1,2,4-triazole and formaldehyde (10 mL of 37 wt % in water) is heated at 150° C. in a sealed tube for 48 h. After cooling the reaction vessel, the reaction mixture is extracted with dichloromethane, dried (MgSO4), concentrated, and the residue purified using silica gel chromatography to afford 1-(3-Fluorophenyl)-5-hydroxymethyl-1,2,4-triazole. 1H NMR (CDCl3) δ 8.02 (s, 1H), 7.42-7.53 (m, 3H), 7.22-7.29 (m, 1H), 4.81 (s, 2H). LCMS 194.2 (MH−).

reactant | 1-(3-Fluorophenyl)-1,2,4-triazole | FC=1C=C(C=CC1)N1N=CN=C1 | C8H6FN3
reactant | formaldehyde | 10 mL | C=O | CH2O
product | 1-(3-Fluorophenyl)-5-hydroxymethyl-1,2,4-triazole | FC=1C=C(C=CC1)N1N=CN=C1CO | C9H8FN3O
